US06538152B1
To a stirred solution of the obtained 4′-benzyloxy-3′-bromophenethyl alcohol (782 mg) in dichloromethane (8 ml) were added N,N-diisopropylethylamine (665 μl) and chloromethyl methyl ether (232 μl) under ice-cooling, and the mixture was stirred for 6 hours at room temperature. The reaction mixture was poured into water and extracted with ethyl acetate. After the extract was washed with brine, removal of the solvent under reduced pressure gave benzyl 2-bromo-4-(2-methoxymethoxyethyl)phenyl ether (804 mg). To a solution of benzyl 2-bromo-4-(2-methoxymethoxyethyl)phenyl ether (804 mg) in N,N-dimethylformamide (5 ml) was added copper(I) cyanide (458 mg) and the mixture was stirred for 2 days at 120° C. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, and removal of the solvent under reduced pressure gave 2-benzyloxy-5-(2-methoxymethoxyethyl)benzonitrile (711 mg).

reactant | benzyl 2-bromo-4-(2-methoxymethoxyethyl)phenyl ether | 804 mg | BrC1=C(C=CC(=C1)CCOCOC)OCC1=CC=CC=C1 | C17H19BrO3
reactant | copper(I) cyanide | 458 mg | [Cu]C#N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-benzyloxy-5-(2-methoxymethoxyethyl)benzonitrile | 711 mg | C(C1=CC=CC=C1)OC1=C(C#N)C=C(C=C1)CCOCOC | C18H19NO3
